US06908921B2
To a solution of (4-cyanophenyl)acetic acid (131 mg, 0.816 mmol) in EtOH (0.5 mL) at 0° C. was bubbled HCl(g) until saturation. Reaction mixture was allowed to warm to room temperature slowly. After overnight stirring, the crude reaction mixture was concentrated in vacuo. This residue was taken up in EtOH (4 mL) and ethylene diamine (0.1 mL, 1.49 mmol) was added. After stirring at room temperature for two hours, the crude reaction mixture was concentrated under reduced pressure and then re-dissolved in DMF (2 mL). To this solution was added 1M NaOH (2 mL, 2 mmol) and the reaction stirred at room temperature for three hours. Crude reaction mixture was neutralized with 1M HCl to a pH 6 and extracted with CHCl3 (4×15 mL). Product was found in the water layer, so combined all layers and concentrated in vacuo, re-dissolved in CHCl3/MeOH, and filtered to remove precipitate. Concentration of the filtrate gives [4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]acetic acid, which was used without further purification. LCMS (ES) 205.1 m/z (M+H)+

reactant | (4-cyanophenyl)acetic acid | 0.816 mmol, 131 mg | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
reactant | HCl | Cl | ClH
reactant | ethylene diamine | 1.49 mmol, 0.1 mL | C(CN)N | C2H8N2
reactant | NaOH | 2 mmol, 1M, 2 mL | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | EtOH | 0.5 mL | CCO | C2H6O
product | [4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]acetic acid | N1C(=NCC1)C1=CC=C(C=C1)CC(=O)O | C11H12N2O2
